data/mechanism_extracts/OrgLett/10.1021_acs.orglett.9b00263.json
{"doi": "10.1021_acs.orglett.9b00263", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical tandem trifluoromethylation (or sulfonylation)/semipinacol rearrangement of cyclobutanol-substituted allylic alcohols to give α-quaternary β-CF3 (or β-sulfonyl) cyclopentanones via 1,2-alkyl migration.", "mechanism_family": ["radical_polar_crossover", "radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation of CF3SO2Na (Langlois reagent) generates CF3SO2 radical that extrudes SO2 to give CF3 radical; after CF3 addition to the alkene, the resulting benzyl radical is further anodically oxidized to a benzyl carbocation that triggers ring expansion. Cathode reduces H2O/H+ to H2.", "key_intermediates": [{"name": "CF3SO2 radical (sulfonyl radical from anodic SET of Langlois reagent)", "smiles": "[O]S(=O)C(F)(F)F", "role": "transient"}, {"name": "CF3 radical (after SO2 extrusion)", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "Benzylic carbon radical 5 (CF3 addition adduct to styrenyl cyclobutanol)", "smiles": null, "role": "reactive"}, {"name": "Benzylic carbocation 6 (after second anodic oxidation)", "smiles": null, "role": "reactive"}, {"name": "Ring-expanded oxocarbenium / protonated cyclopentanone after 1,2-alkyl migration", "smiles": null, "role": "transient"}, {"name": "α-quaternary β-CF3 cyclopentanone 2a (product)", "smiles": "O=C1CCCC1(c1ccccc1)CC(F)(F)F", "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2 radical which loses SO2 to give CF3 radical; CF3 radical adds to the styrenyl C=C of the allylic cyclobutanol giving a benzyl radical, which is oxidized again at the anode to a benzyl cation; 1,2-alkyl (cyclobutyl C-C) migration with deprotonation furnishes the α-quaternary cyclopentanone, while the cathode reduces water to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction inhibited; no 2a formed; TEMPO-CF3 adduct detected by GC-MS, supporting a free CF3 radical."}, {"name": "Methanol (as cosolvent)", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Methanol-trapped (methoxy-incorporated) species observed, indicating a carbocation intermediate."}, {"name": "CF3SO2Na / 1a cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "1a oxidizes at Ep/2 = 2.1 V vs SCE while CF3SO2Na oxidizes at 1.4 V vs SCE, so CF3SO2Na is preferentially oxidized first, generating CF3 radical."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Selectivity for 1,2-migration over oxygen-trapping or deprotonation byproducts (4aa/4ab) relies on the high migratory aptitude of the cyclobutyl group. Competing arene trifluoromethylation byproduct 4aa is suppressed by lowering CF3SO2Na to 2.0 equiv and increasing H2O:MeCN ratio. The sulfonylation variant is proposed to follow an analogous pathway with ArSO2 radical instead of CF3 radical (no SO2 extrusion)."}
